US07615562B2
[4-(6-Methoxy-benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared analogous to Method C, starting 6-methoxy-benzo[b]thiophen-2-boronic acid and (4-Chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine.

reactant | 6-methoxy-benzo[b]thiophen-2-boronic acid | COC=1C=CC2=C(SC(=C2)B(O)O)C1 | C9H9BO3S
reactant | (4-Chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
product | [4-(6-Methoxy-benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | COC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2)NC2CC(NC(C2)(C)C)(C)C)C1 | C22H28N4OS
